* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout gnd)
* Instance params: iload (OP current), slew_en (0=linear PSS/HB core),
*   vdd    = supply DC operating point [V] (default 1.05 = characterized nominal);
*            sets the PSRR DC reference AND shifts Vout DC along the characterized
*            dc_linereg curve (clamped to its measured span [0.9,1.3]V)
*   voutdc = direct Vout DC override [V] (0 = use the characterized DC; >0 pins
*            Vout(iload) to this value, small-signal blocks unchanged)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout gnd iload=121u slew_en=0 vdd=1.05 voutdc=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.013031e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.526895e-01)*u*u + (2.309581e+00)*u + (1.155921e+01)),1.821331e+01),8.563082e+01)}
.param L_a = {min(max(exp((1.367073e-01)*u*u + (2.008486e+00)*u + (-4.771663e+00)),5.957453e-06),2.770065e-05)}
.param R_pl = {min(max(exp((-9.640705e+00)*u*u + (-1.841783e+02)*u + (-8.561902e+02)),2.860092e+03),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((1.991939e-04)*u*u + (4.673365e-03)*u + (2.771732e-02),4.607657e-04),2.669937e-03)}
.param G1 = {min(max((4.199596e-05)*u*u + (2.386346e-04)*u + (-2.773481e-03),-1.870896e-03),-4.319644e-04)}
.param w1 = {min(max(exp((1.205692e-02)*u*u + (2.308585e-01)*u + (1.606326e+01)),3.131064e+06),3.213598e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.977032e+05),1.996852e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-3.309802e-02)*u*u + (-5.597704e-01)*u + (-9.523321e+00)),6.448950e-04),7.829632e-04)}
.param gn1 = {min(max(exp((-1.592236e-01)*u*u + (-2.432571e+00)*u + (-8.715792e+00)),3.531640e-01),1.668409e+00)}
.param gn2 = {min(max(exp((2.894736e+00)*u*u + (5.278303e+01)*u + (2.290496e+02)),9.719866e-06),4.215683e-02)}
.param gn3 = {min(max(exp((-1.603554e-01)*u*u + (-2.454152e+00)*u + (-1.004637e+01)),1.032710e-01),4.879346e-01)}
.param gn4 = {min(max(exp((-1.545029e-01)*u*u + (-2.346590e+00)*u + (-1.057025e+01)),3.789491e-02),1.771113e-01)}
.param gn5 = {min(max(exp((-1.594834e-01)*u*u + (-2.456240e+00)*u + (-1.217879e+01)),1.386852e-02),6.249419e-02)}
.param gn6 = {min(max(exp((-1.550820e-01)*u*u + (-2.350754e+00)*u + (-1.177819e+01)),1.106894e-02),5.264339e-02)}
.param vreg = {min(max((1.359779e-04)*u*u + (1.217231e-03)*u + (9.012197e-01),9.004606e-01),9.039856e-01)}
* ---- R3-L1: settable supply / output DC (defaults reproduce the characterized DC) ----
.param vddc = {min(max(vdd,9.000000e-01),1.300000e+00)}    $ vdd clamped to the dc_linereg span
.param lrsh = {(-9.641010e+00)*vddc*vddc*vddc*vddc + (4.378899e+01)*vddc*vddc*vddc + (-7.433767e+01)*vddc*vddc + (5.590457e+01)*vddc + (-1.481593e+01) - (8.991185e-01)}    $ DC line-reg shift vs characterized nominal
.param vregeff = {vreg + lrsh + ((voutdc > 0) ? (voutdc - (vreg + lrsh - R_a*ic)) : 0)}
.param COUT=4.621953e-09 ESR=7.998383e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant per instance; vregeff adds the
*      R3-L1 vdd line-reg shift / voutdc override). AC vin->vout coupling is handled
*      ENTIRELY by the PSRR path below (small-signal-consistent: its DC limit
*      g_lf*R_a = the measured PSRR LF). A broadband line-reg term here would
*      create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg gnd V = {vregeff}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vregeff-VREG121),-5.199207e-03,1.000000e-06,-1.663940e-03,1.300000e-05,-5.751114e-04,2.500000e-05,1.384356e-04,3.700000e-05,6.881466e-04,4.900000e-05,1.145696e-03,6.100000e-05,1.544227e-03,7.300000e-05,1.901866e-03,8.500000e-05,2.229647e-03,9.700000e-05,2.534814e-03,1.090000e-04,2.822396e-03,1.210000e-04,3.096037e-03,1.330000e-04,3.358467e-03,1.450000e-04,3.611787e-03,1.570000e-04,3.857652e-03,1.690000e-04,4.097387e-03,1.810000e-04,4.332071e-03,1.930000e-04,4.562589e-03,2.050000e-04,4.789681e-03,2.170000e-04,5.013963e-03,2.290000e-04,5.235961e-03,2.410000e-04,5.456120e-03,2.530000e-04,5.674820e-03,2.650000e-04,5.892392e-03,2.770000e-04,6.109121e-03,2.890000e-04,6.325253e-03,3.010000e-04,6.541008e-03,3.130000e-04,6.756574e-03,3.250000e-04,6.972122e-03,3.370000e-04,7.187801e-03,3.490000e-04,7.403745e-03,3.610000e-04,7.620075e-03,3.730000e-04,7.836900e-03,3.850000e-04,8.054320e-03,3.970000e-04,8.272424e-03,4.090000e-04,8.491299e-03,4.210000e-04,8.711023e-03,4.330000e-04,8.931670e-03,4.450000e-04,9.153312e-03,4.570000e-04,9.376017e-03,4.690000e-04,9.599853e-03,4.810000e-04,9.824886e-03,4.930000e-04,9.973908e-03,5.010000e-04,1.035314e-02,5.210000e-04,1.073632e-02,5.410000e-04,1.112378e-02,5.610000e-04,1.151589e-02,5.810000e-04,1.191306e-02,6.010000e-04,1.231577e-02,6.210000e-04,1.272457e-02,6.410000e-04,1.314012e-02,6.610000e-04,1.356319e-02,6.810000e-04,1.399476e-02,7.010000e-04,1.443602e-02,7.210000e-04,1.488845e-02,7.410000e-04,1.535396e-02,7.610000e-04,1.583502e-02,7.810000e-04,1.633484e-02,8.010000e-04,1.685772e-02,8.210000e-04,1.740947e-02,8.410000e-04,1.799799e-02,8.610000e-04,1.863412e-02,8.810000e-04,1.933264e-02,9.010000e-04,2.011338e-02,9.210000e-04,2.100176e-02,9.410000e-04,2.202788e-02,9.610000e-04,2.322267e-02,9.810000e-04,2.461093e-02,1.001000e-03,2.620401e-02,1.021000e-03,2.799711e-02,1.041000e-03,2.997289e-02,1.061000e-03,3.210815e-02,1.081000e-03,3.437920e-02,1.101000e-03,3.676469e-02,1.121000e-03,3.924658e-02,1.141000e-03,4.181004e-02,1.161000e-03,4.444304e-02,1.181000e-03,4.713588e-02,1.201000e-03,4.988070e-02,1.221000e-03,5.267113e-02,1.241000e-03,5.550192e-02,1.261000e-03,5.836878e-02,1.281000e-03,6.126813e-02,1.301000e-03,6.419697e-02,1.321000e-03,6.715280e-02,1.341000e-03,7.013347e-02,1.361000e-03,7.313715e-02,1.381000e-03,7.616228e-02,1.401000e-03,7.920751e-02,1.421000e-03,8.227166e-02,1.441000e-03,8.535370e-02,1.461000e-03,8.845272e-02,1.481000e-03,9.156795e-02,1.501000e-03,9.469866e-02,1.521000e-03,9.784424e-02,1.541000e-03,1.010041e-01,1.561000e-03,1.041778e-01,1.581000e-03,1.073649e-01,1.601000e-03,1.105650e-01,1.621000e-03,1.137776e-01,1.641000e-03,1.170026e-01,1.661000e-03,1.202395e-01,1.681000e-03,1.234882e-01,1.701000e-03,1.267484e-01,1.721000e-03,1.300198e-01,1.741000e-03,1.333023e-01,1.761000e-03,1.365957e-01,1.781000e-03,1.398998e-01,1.801000e-03,1.432146e-01,1.821000e-03,1.465397e-01,1.841000e-03,1.498753e-01,1.861000e-03,1.532210e-01,1.881000e-03,1.565769e-01,1.901000e-03,1.599429e-01,1.921000e-03,1.633189e-01,1.941000e-03,1.667048e-01,1.961000e-03,1.701005e-01,1.981000e-03,1.735061e-01,2.001000e-03,1.769216e-01,2.021000e-03,1.803467e-01,2.041000e-03,1.837817e-01,2.061000e-03,1.872264e-01,2.081000e-03,1.906809e-01,2.101000e-03,1.941451e-01,2.121000e-03,1.976191e-01,2.141000e-03,2.011030e-01,2.161000e-03,2.045967e-01,2.181000e-03,2.081004e-01,2.201000e-03,2.116140e-01,2.221000e-03,2.151377e-01,2.241000e-03,2.186715e-01,2.261000e-03,2.222156e-01,2.281000e-03,2.257700e-01,2.301000e-03,2.293349e-01,2.321000e-03,2.329105e-01,2.341000e-03,2.364969e-01,2.361000e-03,2.400943e-01,2.381000e-03,2.437029e-01,2.401000e-03,2.473229e-01,2.421000e-03,2.509546e-01,2.441000e-03,2.545984e-01,2.461000e-03,2.582544e-01,2.481000e-03,2.619232e-01,2.501000e-03,2.656050e-01,2.521000e-03,2.693003e-01,2.541000e-03,2.730096e-01,2.561000e-03,2.767334e-01,2.581000e-03,2.804724e-01,2.601000e-03,2.842271e-01,2.621000e-03,2.879982e-01,2.641000e-03,2.917866e-01,2.661000e-03,2.955931e-01,2.681000e-03,2.994185e-01,2.701000e-03,3.032640e-01,2.721000e-03,3.071305e-01,2.741000e-03,3.110192e-01,2.761000e-03,3.149315e-01,2.781000e-03,3.188686e-01,2.801000e-03,3.228320e-01,2.821000e-03,3.268232e-01,2.841000e-03,3.308439e-01,2.861000e-03,3.348959e-01,2.881000e-03,3.389811e-01,2.901000e-03,3.431014e-01,2.921000e-03,3.472589e-01,2.941000e-03,3.514559e-01,2.961000e-03,3.556948e-01,2.981000e-03,3.599780e-01,3.001000e-03,3.643082e-01,3.021000e-03,3.686882e-01,3.041000e-03,3.731212e-01,3.061000e-03,3.776102e-01,3.081000e-03,3.821588e-01,3.101000e-03,3.867706e-01,3.121000e-03,3.914496e-01,3.141000e-03,3.962003e-01,3.161000e-03,4.010271e-01,3.181000e-03,4.059352e-01,3.201000e-03,4.109302e-01,3.221000e-03,4.160181e-01,3.241000e-03,4.212055e-01,3.261000e-03,4.264998e-01,3.281000e-03,4.319091e-01,3.301000e-03,4.374422e-01,3.321000e-03,4.431091e-01,3.341000e-03,4.489209e-01,3.361000e-03,4.548898e-01,3.381000e-03,4.610295e-01,3.401000e-03,4.674554e-01,3.421000e-03,4.739941e-01,3.441000e-03,4.807566e-01,3.461000e-03,4.877644e-01,3.481000e-03,4.950418e-01,3.501000e-03,5.026158e-01,3.521000e-03,5.105163e-01,3.541000e-03,5.187766e-01,3.561000e-03,5.274328e-01,3.581000e-03,5.365243e-01,3.601000e-03,5.460928e-01,3.621000e-03,5.561819e-01,3.641000e-03,5.668357e-01,3.661000e-03,5.780971e-01,3.681000e-03,5.900058e-01,3.701000e-03,6.025955e-01,3.721000e-03,6.158917e-01,3.741000e-03,6.299095e-01,3.761000e-03,6.446529e-01,3.781000e-03,6.601139e-01,3.801000e-03,6.762748e-01,3.821000e-03,6.931098e-01,3.841000e-03,7.105878e-01,3.861000e-03,7.286758e-01,3.881000e-03,7.473403e-01,3.901000e-03,7.665495e-01,3.921000e-03,7.862743e-01,3.941000e-03,8.064882e-01,3.961000e-03,8.271674e-01,3.981000e-03,8.482908e-01,4.001000e-03,8.698391e-01,4.021000e-03,8.917946e-01,4.041000e-03,9.141405e-01,4.061000e-03,9.368609e-01,4.081000e-03,9.599408e-01,4.101000e-03,9.833655e-01,4.121000e-03,1.007121e+00,4.141000e-03,1.031193e+00,4.161000e-03,1.055419e+00,4.181000e-03,1.080090e+00,4.201000e-03,1.105039e+00,4.221000e-03,1.130252e+00,4.241000e-03,1.155716e+00,4.261000e-03,1.181419e+00,4.281000e-03,1.207350e+00,4.301000e-03,1.233495e+00,4.321000e-03,1.259845e+00,4.341000e-03,1.286389e+00,4.361000e-03,1.313115e+00,4.381000e-03,1.340013e+00,4.401000e-03,1.367074e+00,4.421000e-03,1.394289e+00,4.441000e-03,1.421648e+00,4.461000e-03,1.449143e+00,4.481000e-03,1.476766e+00,4.501000e-03,1.504508e+00,4.521000e-03,1.532362e+00,4.541000e-03,1.560320e+00,4.561000e-03,1.588377e+00,4.581000e-03,1.616525e+00,4.601000e-03,1.644757e+00,4.621000e-03,1.673069e+00,4.641000e-03,1.701454e+00,4.661000e-03,1.729906e+00,4.681000e-03,1.758422e+00,4.701000e-03,1.786995e+00,4.721000e-03,1.815621e+00,4.741000e-03,1.844296e+00,4.761000e-03,1.873015e+00,4.781000e-03,1.901775e+00,4.801000e-03,1.930571e+00,4.821000e-03,1.959400e+00,4.841000e-03,1.988259e+00,4.861000e-03,2.017144e+00,4.881000e-03,2.046053e+00,4.901000e-03,2.074981e+00,4.921000e-03,2.103927e+00,4.941000e-03,2.132888e+00,4.961000e-03,2.161861e+00,4.981000e-03,2.190843e+00,5.001000e-03,2.219834e+00,5.021000e-03,2.248830e+00,5.041000e-03,2.277829e+00,5.061000e-03,2.306829e+00,5.081000e-03,2.335829e+00,5.101000e-03,2.364827e+00,5.121000e-03,2.393821e+00,5.141000e-03,2.422809e+00,5.161000e-03,2.451790e+00,5.181000e-03,2.480763e+00,5.201000e-03,2.509726e+00,5.221000e-03,2.538678e+00,5.241000e-03,2.567617e+00,5.261000e-03,2.596543e+00,5.281000e-03,2.625455e+00,5.301000e-03,2.654350e+00,5.321000e-03,2.683229e+00,5.341000e-03,2.712091e+00,5.361000e-03,2.740933e+00,5.381000e-03,2.769757e+00,5.401000e-03,2.798560e+00,5.421000e-03,2.827342e+00,5.441000e-03,2.856103e+00,5.461000e-03,2.884841e+00,5.481000e-03,2.913556e+00,5.501000e-03,2.942247e+00,5.521000e-03,2.970914e+00,5.541000e-03,2.999556e+00,5.561000e-03,3.028173e+00,5.581000e-03,3.056764e+00,5.601000e-03,3.085328e+00,5.621000e-03,3.113866e+00,5.641000e-03,3.142376e+00,5.661000e-03,3.170859e+00,5.681000e-03,3.199313e+00,5.701000e-03,3.227739e+00,5.721000e-03,3.256137e+00,5.741000e-03,3.284505e+00,5.761000e-03,3.312844e+00,5.781000e-03,3.341153e+00,5.801000e-03,3.369432e+00,5.821000e-03,3.397681e+00,5.841000e-03,3.425899e+00,5.861000e-03,3.454087e+00,5.881000e-03,3.482244e+00,5.901000e-03,3.510370e+00,5.921000e-03,3.538464e+00,5.941000e-03,3.566527e+00,5.961000e-03,3.594558e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw gnd 1.000000e+06
Gnw  gnd vout nw gnd {gnw}      $ white floor
Rn1  nk1 gnd 1.000000e+06
Cn1  nk1 gnd 1.241880e-08        $ corner 12.82 Hz
Gn1  gnd vout nk1 gnd {gn1}
Rn2  nk2 gnd 1.000000e+06
Cn2  nk2 gnd 3.921201e-09        $ corner 40.59 Hz
Gn2  gnd vout nk2 gnd {gn2}
Rn3  nk3 gnd 1.000000e+06
Cn3  nk3 gnd 1.385272e-09        $ corner 114.9 Hz
Gn3  gnd vout nk3 gnd {gn3}
Rn4  nk4 gnd 1.000000e+06
Cn4  nk4 gnd 1.789798e-10        $ corner 889.2 Hz
Gn4  gnd vout nk4 gnd {gn4}
Rn5  nk5 gnd 1.000000e+06
Cn5  nk5 gnd 2.010523e-11        $ corner 7916 Hz
Gn5  gnd vout nk5 gnd {gn5}
Rn6  nk6 gnd 1.000000e+06
Cn6  nk6 gnd 3.836542e-13        $ corner 4.148e+05 Hz
Gn6  gnd vout nk6 gnd {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-vdd), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf gnd DC {vdd}              $ supply DC reference (settable; default = fit vin)
Gd   gnd vout vin vrf {G0}         $ feedthrough  G0*(vin-vdd)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to vdd
Gs1  gnd vout np1 vrf {G1}         $ G1*(LP1(vin)-vdd)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  gnd vout np2 vrf {G2}         $ G2*(LP2(vin)-vdd)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  gnd vout np3 vrf {G3}         $ G3*(LP3(vin)-vdd)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 gnd vout ncs2 vrf {pcb0}      $ inject b0*x
Gqb1 gnd vout vin  ncs1 {gqb1}     $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

